### PR TITLE
feat (Fujisakis): Module topology on a product is the product of the module toplogies

### PR DESCRIPTION
**Pull request by WilliamCoram**

### CODE REVIEW

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 1]
```diff
@@ -0,0 +1,355 @@
+import Mathlib.Topology.Algebra.Module.ModuleTopology
+
+namespace ModuleTopIsProd
+
+variable (R S : Type*) [Ring R] [Ring S] [TopologicalSpace R] [TopologicalSpace S] (M N : Type*)
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] [TopologicalSpace M]
+  [IsModuleTopology R M] [TopologicalSpace N] [IsModuleTopology S N]
+
+instance : HSMul (R × S) (M × N) (M × N) where
+  hSMul a b := (a.1 • b.1, a.2 • b.2) -- why is this needed...
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Just define SMul rather than HSMul. And I think you should not make this a global instance because it causes diamonds [#mathlib4 > product of modules over product of rings @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/product.20of.20modules.20over.20product.20of.20rings/near/532797383) (this is why it's not already there; you might want to look through the Zulip thread. 

What I suggest you do is to instead make this a definition, give it a name (you can use `#whatsnew in` to find out the name which Lean automatically gave the instance and if it's not too ridiculous you can use it) and then make it a local instance in this file only (and in other files where you need to have it).

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 2]
```diff
@@ -0,0 +1,355 @@
...
+
+-- maybe there is an easier way to do this without being explicit?
+instance : Module (Prod R S) (Prod M N) where
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Use the notation, not `Prod`.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 3]
```diff
@@ -0,0 +1,355 @@
...
+  smul a b := (a.1 • b.1, a.2 • b.2)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Make the `SMul` first and you won't need this.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 4]
```diff
@@ -0,0 +1,355 @@
...
+    (M N : Type*) [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] [TopologicalSpace M]
+    [IsModuleTopology R M] [TopologicalSpace N] [IsModuleTopology S N] :
+    ContinuousAdd (Prod M N) := by
+  have a : ContinuousAdd M := IsModuleTopology.toContinuousAdd R M
+  have b : ContinuousAdd N := IsModuleTopology.toContinuousAdd S N
+  exact Prod.continuousAdd
+
+/-- Permutation map of `(R × S) × (M × N) → (R × M) × (S × N)`. -/
+def permutation_map : (R × S) × (M × N) → (R × M) × (S × N) :=
+  fun a => ((a.1.1, a.2.1), (a.1.2, a.2.2))
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Surely we have this already? But I don't know what it's called. does `exact?` find it?

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 5]
```diff
@@ -0,0 +1,355 @@
...
+
+omit [Ring R] [Ring S] [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N]
+  [IsModuleTopology R M] [IsModuleTopology S N] in
+lemma continuous_permutation_map : Continuous (permutation_map R S M N) := by
+  unfold permutation_map
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Doesn't `fun_prop` work now you've unfolded the def?

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 6]
```diff
@@ -0,0 +1,355 @@
...
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] [TopologicalSpace M]
+  [IsModuleTopology R M] [TopologicalSpace N] [IsModuleTopology S N]
+
+instance : HSMul (R × S) (M × N) (M × N) where
+  hSMul a b := (a.1 • b.1, a.2 • b.2) -- why is this needed...
+
+-- maybe there is an easier way to do this without being explicit?
+instance : Module (Prod R S) (Prod M N) where
+  smul a b := (a.1 • b.1, a.2 • b.2)
+  one_smul a := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: My guess is that my proof at the top of the thread I posted above compiles much more quickly than yours; aesop can be slow. Am I right?

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 7]
```diff
@@ -0,0 +1,355 @@
...
+continuous composition with a swap function - the problem is this requires product topologies...
+which is kinda the whole point of these theorems.
+-/
+
+omit [TopologicalSpace M] [TopologicalSpace N] in
+lemma id_eq : @id (M × N) = ((incl1 M N) ∘ (Prod.fst)) + ((incl2 M N) ∘ (Prod.snd)) := by
+  ext a
+  all_goals simp
+
+lemma Final : IsModuleTopology (Prod R S) (Prod M N) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Use notation not `Prod`

**Review by kbuzzard — COMMENTED** [review]
I'll look at this more carefully later, but here are some initial comments.

File: FLT/DivisionAlgebra/ModuleTopProd.lean (hunk 6 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/ModuleTopProd.lean]: It at least removes the need of the hsmul. Not sure about compiling times, but yours is definitely cleaner.

File: FLT/DivisionAlgebra/ModuleTopProd.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/ModuleTopProd.lean]: It did not - but I have found Equiv.prodProdProdComm which is the same.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 8]
```diff
@@ -0,0 +1,333 @@
+import Mathlib.Topology.Algebra.Module.ModuleTopology
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: The name of this file does not conform to any naming conventions: `Top` is the top element of an order, which has nothing to do with what is going on here. Furthermore the location of this file is also wrong -- this has nothing to do with division algebras. Let's just start with the first instance, `Module (R × S) (M × N)`. Think about where this might go in mathlib; maybe it goes in `Mathlib.Foo`. Then create a new file `FLT.Mathlib.Foo` and put it in there.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 9]
```diff
@@ -0,0 +1,333 @@
...
+
+namespace ModuleTopIsProd
+
+variable (R S : Type*) [Ring R] [Ring S] [TopologicalSpace R] [TopologicalSpace S] (M N : Type*)
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] [TopologicalSpace M]
+  [IsModuleTopology R M] [TopologicalSpace N] [IsModuleTopology S N]
+
+/-- The (R × S)-module structure on (M × N). -/
+local instance : Module (R × S) (M × N) where
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Usually the convention with defs (this is a definition, not a theorem) is to put all the hypotheses in the definition rather than as variables before it: firstly because often in the definition you want different choices of explicit/implicit than in the theorems, but secondly your code is quite misleading as it stands: you have put lots of topological assumptions in your variables but now you're not using any of them. Also, you should name the instance, because this might be an instance which people are going to want to switch on and off in other files with `attribute [local instance] instModuleProd` (my recommendation is that you call it `instModuleProd`).

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 10]
```diff
@@ -0,0 +1,333 @@
+import Mathlib.Topology.Algebra.Module.ModuleTopology
+
+namespace ModuleTopIsProd
+
+variable (R S : Type*) [Ring R] [Ring S] [TopologicalSpace R] [TopologicalSpace S] (M N : Type*)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: These variables should move after the local instance, and should only be introduced as you need them, and should be introduced in the right generality. For example I should think that the instance will work fine for semirings.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 11]
```diff
@@ -0,0 +1,333 @@
+import Mathlib.Topology.Algebra.Module.ModuleTopology
+
+namespace ModuleTopIsProd
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: This namespace does not conform at all to the naming conventions. `Is` is not in the naming conventions at all as far as I know, and `Top` means something else. How about `ModuleProd`?

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 12]
```diff
@@ -0,0 +1,333 @@
...
+    ext <;>
+    exact smul_add _ _ _
+  add_smul rs rs' mn := by
+    cases rs; cases rs'; cases mn
+    ext <;>
+    exact add_smul _ _ _
+  zero_smul mn := by cases mn; ext <;> exact zero_smul _ _
+
+-- not sure why I need to add everything in here...
+lemma continuous_add (R S : Type*) [Ring R] [Ring S] [TopologicalSpace R] [TopologicalSpace S]
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: You don't need this theorem. The theorem (which is an instance, and already there) is that if M is an R-module with the module topology, then addition is continuous on M; then typeclass inference can take it from there. You only use this result in your final proof; you can just change the invocation of it to
```
  haveI : ContinuousAdd M := IsModuleTopology.toContinuousAdd R M
  haveI : ContinuousAdd N := IsModuleTopology.toContinuousAdd S N
```
and then typeclass inference will supply it for you.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 13]
```diff
@@ -0,0 +1,333 @@
...
+    (M N : Type*) [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] [TopologicalSpace M]
+    [IsModuleTopology R M] [TopologicalSpace N] [IsModuleTopology S N] :
+    ContinuousAdd (M × N) := by
+  have a : ContinuousAdd M := IsModuleTopology.toContinuousAdd R M
+  have b : ContinuousAdd N := IsModuleTopology.toContinuousAdd S N
+  exact Prod.continuousAdd
+
+omit [Ring R] [Ring S] [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N]
+  [IsModuleTopology R M] [IsModuleTopology S N] in
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: You are misusing variables. They should never have been added at this point; you have too many and you don't need them.

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 14]
```diff
@@ -0,0 +1,333 @@
...
+lemma continuous_prodProdProdComm : Continuous (Equiv.prodProdProdComm R S M N) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: This has nothing to do with ring theory, should be in another file, should be tagged `@[fun_prop]`, and you might want to PR it directly to mathlib. Note that in your code it's in the wrong namespace (this has nothing to do with modules).

```
@[fun_prop]
lemma Equiv.continuous_prodProdProdComm : Continuous (Equiv.prodProdProdComm R S M N) :=
  show Continuous fun abcd : (R × S) × M × N ↦ ((abcd.1.1, abcd.2.1), abcd.1.2, abcd.2.2) by
  fun_prop
```

File: FLT/DivisionAlgebra/ModuleTopProd.lean [hunk 15]
```diff
@@ -0,0 +1,333 @@
...
+  simp only [Equiv.coe_fn_mk]
+  fun_prop
+
+/-- Product map of the scalar multiplications defined on the product `R × M` and `S × N`. -/
+def prod_smul : (R × M) × (S × N) → (M × N) :=
+  Prod.map (fun (r, m) => r • m) (fun (s, n) => s • n)
+
+lemma continuous_smul : ContinuousSMul (R × S) (M × N) := by
+  refine { continuous_smul := ?_ }
+  have : (fun p ↦ p.1 • p.2 : (R × S) × M × N → M × N) =
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/ModuleTopProd.lean]: Just use the standard notation for making a term of a structure:
```lean
lemma continuous_smul : ContinuousSMul (R × S) (M × N) where
    continuous_smul := by
      have : (fun p ↦ p.1 • p.2 : (R × S) × M × N → M × N) = ...
```
(and indent the proof appropriately)

File: FLT/DivisionAlgebra/ModuleTopProd.lean (hunk 9 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/ModuleTopProd.lean]: Thanks. I see the importance of putting hypothesis when they are needed rather than at the start of the file, I will try to continue doing this in the future. 

NB: They really need a lightbulb react to signify good idea.

**Comment by WilliamCoram** [comment]
awaiting-review

File: FLT/Mathlib/Algebra/Module/Prod.lean [hunk 16]
```diff
@@ -0,0 +1,38 @@
+import Mathlib.Algebra.Module.Defs
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Module/Prod.lean:1]: Can you add a copyright header? I want to start moving towards this as a convention.

File: FLT/Mathlib/Algebra/Module/Prod.lean [hunk 17]
```diff
@@ -0,0 +1,38 @@
...
+import Mathlib.Algebra.Ring.Prod
+import Mathlib.Algebra.Module.Prod
+
+/-
+I am not fully convinced what the naming should be for this instance, or if this is where it belongs
+as it conflicts with Prod.instModule ... also will there be a diamond when S = R?
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Module/Prod.lean:7]: The thread is here [#mathlib4 > product of modules over product of rings @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/product.20of.20modules.20over.20product.20of.20rings/near/532797132) and in the comment (which could be a module docstring) you could link to it and also give the following example:
```lean 
example [CommRing R] : (inferInstance : Module (R × R) ((R × R) × (R × R))) =
    instModuleProd := by
  ext ⟨a, b⟩ ⟨⟨c, d⟩, e, f⟩
  · rfl
  · simp [SMul.smul, instModuleProd]
    -- ⊢ b * d = a * d
    sorry
  · simp [SMul.smul, instModuleProd]
    -- ⊢ a * e = b * e
    sorry
  · rfl
```
This is why the instance won't be allowed in mathlib. It's fine to make it a definition; but after reading the discussion about instance names I now understand that you shouldn't call it `inst`-anything because it's not an instance. And moreover you shouldn't make it a local instance in this fie because there's no point -- the file compiles fine without it. This is the sort of thing which you can just temporarily switch on *in other files* as needed.

File: FLT/Mathlib/Algebra/Module/Prod.lean [hunk 18]
```diff
@@ -0,0 +1,38 @@
...
+-/
+namespace ModuleProd
+
+variable {R S M N : Type*}
+
+/-- The (R × S)-module structure on (M × N). -/
+local instance instModuleProd [Semiring R] [Semiring S] [AddCommMonoid M] [AddCommMonoid N]
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Module/Prod.lean:14]:
```suggestion
def Prod.moduleProd [Semiring R] [Semiring S] [AddCommMonoid M] [AddCommMonoid N]
```
How about that for a name?

File: FLT/Mathlib/Algebra/Module/Prod.lean [hunk 19]
```diff
@@ -0,0 +1,38 @@
...
+    [Module R M] [Module S N] : Module (R × S) (M × N) where
+  smul rs mn := (rs.1 • mn.1, rs.2 • mn.2)
+  one_smul mn := by cases mn; ext; exacts [one_smul R _, one_smul S _]
+  mul_smul rs rs' mn := by
+    cases rs; cases rs'; cases mn
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Module/Prod.lean:19]:
```suggestion
  mul_smul := by
    rintro ⟨r, s⟩ ⟨r', s'⟩ ⟨m, n⟩
```
is slightly shorter but I'm not suggesting this because I think you should change it, I'm just showing you the trick; what you have is fine.

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 20]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
+
+variable {R S M N : Type*} [Semiring R] [Semiring S] [TopologicalSpace R] [TopologicalSpace S]
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N]
+
+/-- The R × S module structure on M × N. -/
+local instance : Module (R × S) (M × N) := ModuleProd.instModuleProd
+
+/-- Inclusion `M → M × N` by `a ↦ (a, 0)`. -/
+abbrev incl1 : M → M × N :=
+  fun a => (a, 0)
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:487]: Of course we have this already: it's `AddMonoidHom.inl` (a group homomorphism, but it will have a coercion to function), so I would definitely not define this. Each definition comes with a cost, which is that you have to make API for the definition, and the API is already made for `AddMonoidHom.inl`.

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 21]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
+    (f := (fun (a : M × M ) => (((a.1, 0) : (M × N)) , (((a.2, 0)) : (M × N)))))
+    (g := (fun (b : (M × N) × (M × N)) => (b.1.1 + b.2.1, b.1.2 + b.2.2))) ?_ ?_
+  · convert ContinuousAdd.continuous_add
+    exact ModuleTopology.continuousAdd (R × S) (M × N)
+  · refine @Continuous.prodMap (M × N) (M × N) M M (moduleTopology (R × S) (M × N))
+      (moduleTopology (R × S) (M × N))
+      (TopologicalSpace.induced (incl1) (moduleTopology (R × S) (M × N)))
+      (TopologicalSpace.induced (incl1) (moduleTopology (R × S) (M × N)))
+      (f := incl1) (g := incl1) ?_ ?_
+    all_goals exact continuous_iff_le_induced.mpr fun U a ↦ a
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:530]: After this heroic effort you can deduce this much cleaner statement:
```
lemma induced_continuous_add'' [TopologicalSpace M] [TopologicalSpace (M × N)]
    [IsModuleTopology (R × S) (M × N)] (hM : Topology.IsInducing (AddMonoidHom.inl M N)) :
    ContinuousAdd M := by
  obtain ⟨rfl⟩ := hM
  have := eq_moduleTopology (R × S) (M × N)
  convert induced_continuous_add
```

Your proof is pretty horrible because it's full of `@`s. What I want to know is: is my variant above actually enough for your purposes? Because if so I would recommend proving my version instead of your version, just because it's cleaner to state so will be cleaner to use.

If I understood better what you were doing (e.g. if you'd sketched a human-readable proof in comments in the longer proof above) then I might have a stab at proving this directly, but what I'm unclear about is whether it's enough for you because at this point I'm not entirely sure why you need these results (in the sense that I'm sure you've told me, but I've now forgotten because I've been working on CFT and top-down FLT for months and ignoring bottom-up FLT, and am only now getting back into it).

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 22]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
+      · rw [continuous_def] at h
+        use h
+    · rw [@Topology.isInducing_iff]
+  have h : (fun (a : M × M) => (a.1 + a.2, (0 : N))) =
+      (fun (b : (M × N) × (M × N)) => (b.1.1 + b.2.1, b.1.2 + b.2.2)) ∘
+      (fun (a : M × M ) => (((a.1, 0) : (M × N)) , (((a.2, 0)) : (M × N)))) := by
+    ext a
+    all_goals simp
+  rw [h]
+  refine @Continuous.comp (M × M) ((M × N) × M × N) (M × N) (@instTopologicalSpaceProd M M
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:516]: With long proofs like this I would kind of prefer comments just briefly explaining the mathematical ideas, like I do in the module topology files in mathlib. It would make it much easier to golf the proofs if I knew what was going on.

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 23]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
 
+section ModuleProd
+
+/- This should probably replace the Prod section above ... reduces CommRing → Ring. -/
+
+variable {R S M N : Type*} [Semiring R] [Semiring S] [TopologicalSpace R] [TopologicalSpace S]
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N]
+
+/-- The R × S module structure on M × N. -/
+local instance : Module (R × S) (M × N) := ModuleProd.instModuleProd
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:483]: You should only switch this on when you need it. In fact you can even just switch it on in the definitions and theorems which need it by putting
```lean
attribute [local instance] ModuleProd.instModuleProd in
```
just before them.

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 24]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
+lemma continuous_incl1 : @Continuous M (M × N) (moduleTopology R M) (moduleTopology (R × S) (M × N))
+    (incl1) := by
+  refine continuous_iff_le_induced.mpr ?_
+  refine sInf_le ?_
+  constructor
+  · exact induced_continuous_smul
+  · exact induced_continuous_add
+
+lemma induced_continuous_add' : @ContinuousAdd N
+    (TopologicalSpace.induced (incl2) (moduleTopology (R × S) (M × N))) _ := by
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:603]: Woah woah woah, you've already proved this once for inl, you don't want to prove it again for inr, you want to deduce the result by symmetry. You can't just duplicate the code like that.

After having written that comment, I decided to do this myself. Because I am not entirely clear about whether we actually want your ugly statements with @s in or whether we can get away with my nicer statements like my `induced_continuous_add''` above, I decided that I would just try and prove the `.inr` version of my clean version. My version (deduced from `induced_continuous_add''`) is this:
```
attribute [local instance] ModuleProd.instModuleProd in
lemma induced_continuous_add''' [TopologicalSpace N] [TopologicalSpace (M × N)]
    [IsModuleTopology (R × S) (M × N)] (hN : Topology.IsInducing (AddMonoidHom.inr M N)) :
    ContinuousAdd N := by
  let : TopologicalSpace (N × M) := .induced (Equiv.prodComm N M) inferInstance
  let e : (M × N) ≃SL[(RingEquiv.prodComm.toRingHom : R × S →+* S × R)] (N × M) := {
    __ := LinearEquiv.prodSwap R S M N
    continuous_toFun := by
      convert continuous_coinduced_rng
      exact congr($(Equiv.induced_symm (Equiv.prodComm M N)) _)
    continuous_invFun := continuous_induced_dom
  }
  have hN' : Topology.IsInducing (AddMonoidHom.inl N M) := by
    rw [← Topology.isInducing_iff_comp_continuousEquiv (AddMonoidHom.inl N M) e.symm.toHomeomorph]
    convert hN
  convert induced_continuous_add'' (R := S) (S := R) (M := N) (N := M) hN'
  apply ContinuousLinearEquiv.isModuleTopology _ _ continuous_swap continuous_swap e.symm
```

However, that version won't compile for you, because you are missing `LinearEquiv.prodSwap`
and `Topology.isInducing_iff_comp_continuousEquiv` and `ContinuousLinearEquiv.isModuleTopology`, all of which I had to write myself. And in writing them I found other missing things in mathlib. The below code has taken me many hours, but I firmly believe that this is the correct way to proceed rather tham the code duplication. The code can be inserted into the file just after your `continuous_incl1`, which I've restated to be about `AddMonoidHom.inl _ _`.

```lean
-- your code, around line 596
lemma continuous_incl1 : @Continuous M (M × N) (moduleTopology R M) (moduleTopology (R × S) (M × N))
    (AddMonoidHom.inl _ _) := by
  refine continuous_iff_le_induced.mpr ?_
  refine sInf_le ?_
  constructor
  · exact induced_continuous_smul
  · exact induced_continuous_add

-- new bit starts here. Start by exiting the namespace because this stuff should be elsewhere
end ModuleProd

end IsModuleTopology

-- I am amazed that this isn't in mathlib
lemma TopologicalSpace.induced_comp {X Y Z : Type*}
    (f : X → Y) (g : Y → Z) (τ : TopologicalSpace Z) :
    induced (g ∘ f) τ = induced f (induced g τ) := by
  ext U
  refine ⟨fun ⟨W, hW, hWU⟩ ↦ ⟨g⁻¹' W, isOpen_induced hW, hWU⟩,
      fun ⟨V, ⟨W, hW, hWV⟩, hVU⟩ ↦ ?_⟩
  subst hWV hVU
  exact ⟨W, hW, rfl⟩

lemma Topology.isInducing_iff_comp_continuousEquiv
    {X Y Z : Type*} [TopologicalSpace X] [TopologicalSpace Y]
    [TopologicalSpace Z] (f : X → Y) (e : Y ≃ₜ Z) :
    Topology.IsInducing (e ∘ f) ↔ Topology.IsInducing f := by
  simp only [Topology.isInducing_iff]
  apply Eq.congr_right
  rw [TopologicalSpace.induced_comp]
  congr
  exact (Homeomorph.induced_eq e)

lemma TopologicalSpace.induced_eq_iff_coinduced_eq {X Y : Type*}
    (x : TopologicalSpace X) (y : TopologicalSpace Y)
    {F : Type*} (e : F) [EquivLike F X Y] :
    TopologicalSpace.induced e y = x ↔ TopologicalSpace.coinduced e x = y := by
  refine ⟨?_, ?_⟩
  · rintro rfl
    convert show coinduced e (coinduced (Equiv.symm e) y) = y by
      simp [coinduced_compose, coinduced_id]
    exact (Equiv.coinduced_symm (e : X ≃ Y)).symm -- can't rewrite this earlier because ⇑↑e ≠ ⇑e
  · rintro rfl
    convert show coinduced (Equiv.symm e) (coinduced e x) = x by
      simp [coinduced_compose, coinduced_id]
    exact (Equiv.coinduced_symm (e : X ≃ Y)).symm

-- I am surprised that this isn't in mathlib but maybe there's a reason that
-- it's not
@[simp]
lemma LinearEquiv.self_comp_symm {A B M N : Type*}
    [Semiring A] [TopologicalSpace A]
    [Semiring B] [TopologicalSpace B]
    [AddCommMonoid M] [Module A M]
    [AddCommMonoid N] [Module B N] [TopologicalSpace N] [IsModuleTopology B N]
    (σ : A →+* B) (σ' : B →+* A) [RingHomInvPair σ σ'] [RingHomInvPair σ' σ] (e : M ≃ₛₗ[σ] N) :
    ⇑e ∘ ⇑e.symm = id := by
  ext
  simp

-- variant of continuousAdd_induced for `AddEquivClass` where we can go both ways
lemma continuousAdd_induced_iff {M N : Type*} [AddCommMonoid M] [AddCommMonoid N]
    {F : Type*} [EquivLike F M N] [AddEquivClass F M N] (e : F)
    (t : TopologicalSpace N) :
    @ContinuousAdd M (.induced e t) _ ↔ ContinuousAdd N := by
  refine ⟨fun h ↦ ?_, fun h ↦ continuousAdd_induced e⟩
  let : TopologicalSpace M := .induced e t
  convert continuousAdd_induced (N := M) (e : M ≃+ N).symm
  subst this
  simp only [← TopologicalSpace.induced_comp] -- simp won't simplify `⇑e ∘ ⇑(↑e).symm`
  convert induced_id.symm
  ext
  simp

-- better than `continuousSMul_induced` because it lets me change rings
lemma continuousSMul_induced' {A B M N : Type*}
    [Semiring A] [TopologicalSpace A]
    [Semiring B] [TopologicalSpace B]
    [AddCommMonoid M] [Module A M]
    [AddCommMonoid N] [Module B N] [τN : TopologicalSpace N]
    {σ : A →+* B} (hσ : Continuous σ)
    (e : M →ₛₗ[σ] N) [ContinuousSMul B N] :
    @ContinuousSMul A M _ _ (τN.induced e) :=
  let _ : TopologicalSpace M := τN.induced e
  Topology.IsInducing.continuousSMul (N := A) (Y := M) (f := σ) (X := N) (g := e) ⟨rfl⟩ hσ
    (LinearMap.map_smulₛₗ e _ _)

-- version of `continuousSMul_induced` for `LinearEquiv`s where we can go both ways
lemma continuousSMul_induced_iff {A B M N : Type*}
    [Semiring A] [TopologicalSpace A]
    [Semiring B] [TopologicalSpace B]
    [AddCommMonoid M] [Module A M]
    [AddCommMonoid N] [Module B N] [τN : TopologicalSpace N] --[IsModuleTopology B N]
    {σ : A →+* B} {σ' : B →+* A} [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
    (hσ : Continuous σ) (hσ' : Continuous σ')
    (e : M ≃ₛₗ[σ] N) :
    @ContinuousSMul A M _ _ (τN.induced e) ↔ ContinuousSMul B N := by
  refine ⟨fun h ↦ ?_, fun h ↦ continuousSMul_induced' hσ e.toLinearMap⟩
  let : TopologicalSpace M := τN.induced e
  convert continuousSMul_induced' hσ' e.symm.toLinearMap
  subst this
  simp only [LinearEquiv.coe_coe, ← TopologicalSpace.induced_comp]
  convert induced_id.symm -- missing simp lemma
  ext
  simp

-- `isModuleTopology` can be pulled back along a `ContinuousLinearEquiv`
lemma ContinuousLinearEquiv.isModuleTopology {A B M N : Type*}
    [Semiring A] [TopologicalSpace A]
    [Semiring B] [TopologicalSpace B]
    [AddCommMonoid M] [Module A M] [TopologicalSpace M]
    [AddCommMonoid N] [Module B N] [TopologicalSpace N] [IsModuleTopology B N]
    (σ : A →+* B) (σ' : B →+* A) [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
    (hσ : Continuous σ) (hσ' : Continuous σ')
    (e : M ≃SL[σ] N) :
    IsModuleTopology A M := by
  constructor
  simp_rw [← Homeomorph.induced_eq e.toHomeomorph, eq_moduleTopology B N, induced_sInf]
  congr
  let g : M ≃ₛₗ[σ] N := e
  let f : M ≃+ N := e
  ext t
  simp only [Set.mem_image, TopologicalSpace.induced_eq_iff_coinduced_eq, exists_eq_right']
  set u : TopologicalSpace N := TopologicalSpace.coinduced e t with hu
  have ht := (TopologicalSpace.induced_eq_iff_coinduced_eq t u e).2 hu.symm
  change u ∈ _ ↔ _
  rw [← ht]
  simp only [Set.mem_setOf_eq]
  apply and_congr
  · exact (continuousSMul_induced_iff hσ hσ' g).symm
  · exact (continuousAdd_induced_iff f u).symm

-- `isModuleTopology` can be pulled back and pushed forward along a `ContinuousLinearEquiv`
lemma ContinuousLinearEquiv.isModuleTopology_iff {A B M N : Type*}
    [Semiring A] [TopologicalSpace A]
    [Semiring B] [TopologicalSpace B]
    [AddCommMonoid M] [Module A M]
    [TopologicalSpace M]
    [AddCommMonoid N] [Module B N]
    [TopologicalSpace N]
    (σ : A →+* B) (σ' : B →+* A) [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
    (hσ : Continuous σ) (hσ' : Continuous σ')
    (e : M ≃SL[σ] N) :
    IsModuleTopology A M ↔ IsModuleTopology B N := by
  constructor <;> intro _
  · exact ContinuousLinearEquiv.isModuleTopology σ' σ hσ' hσ e.symm
  · exact ContinuousLinearEquiv.isModuleTopology σ σ' hσ hσ' e

-- no idea why this instance isn't there
instance {R S : Type*} [Semiring R] [Semiring S] :
    RingHomInvPair (R₁ := R × S) (R₂ := S × R) RingEquiv.prodComm.toRingHom
      RingEquiv.prodComm.toRingHom where
  comp_eq := by ext ⟨r, s⟩ <;> simp
  comp_eq₂ := by ext ⟨s, r⟩ <;> simp

-- the linear equivalence between `M × N` and `N × M` for your module structure,
-- lying over the ring isomorphism `RingEquiv.prodComm : R × S ≃+* S × R`
attribute [local instance] ModuleProd.instModuleProd in
def LinearEquiv.prodSwap (R S M N : Type*) [Semiring R] [Semiring S]
    [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N] :
    (M × N) ≃ₛₗ[(RingEquiv.prodComm.toRingHom : R × S →+* S × R)] (N × M) where
  __ := AddEquiv.prodComm (M := M) (N := N)
  map_smul' := by
    rintro ⟨r, s⟩ ⟨m, n⟩
    rfl

-- now we're back to the file itself; all the above should go in other files
-- and also in mathlib
namespace IsModuleTopology

section ModuleProd -- back in your section

-- your variables again
variable {R S M N : Type*} [Semiring R] [Semiring S] [TopologicalSpace R] [TopologicalSpace S]
    [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module S N]

-- my proof of the clean version of `induced_continuous_add` for `.inr`,
-- deduced from the clean `.inl` version using symmetry
attribute [local instance] ModuleProd.instModuleProd in
lemma induced_continuous_add''' [TopologicalSpace N] [TopologicalSpace (M × N)]
    [IsModuleTopology (R × S) (M × N)] (hN : Topology.IsInducing (AddMonoidHom.inr M N)) :
    ContinuousAdd N := by
  let : TopologicalSpace (N × M) := .induced (Equiv.prodComm N M) inferInstance
  let e : (M × N) ≃SL[(RingEquiv.prodComm.toRingHom : R × S →+* S × R)] (N × M) := {
    __ := LinearEquiv.prodSwap R S M N
    continuous_toFun := by
      convert continuous_coinduced_rng
      exact congr($(Equiv.induced_symm (Equiv.prodComm M N)) _)
    continuous_invFun := continuous_induced_dom
  }
  have hN' : Topology.IsInducing (AddMonoidHom.inl N M) := by
    rw [← Topology.isInducing_iff_comp_continuousEquiv (AddMonoidHom.inl N M) e.symm.toHomeomorph]
    convert hN
  convert induced_continuous_add'' (R := S) (S := R) hN'
  apply ContinuousLinearEquiv.isModuleTopology _ _ continuous_swap continuous_swap e.symm

-- etc etc
```
My main question to you is whether you can get away with the clean versions of the results (the double and triple primed versions) or whether you need to prove these messier versions (the noprime and single-primed versions in your file). In general I think `IsModuleTopology` is a more flexible assumption than just putting `moduleTopology` on everything; the `Is` version is a predicate so it's more flexible; basically `[TopologicalSpace M] [IsModuleTopology R M]` just lives entirely in the typeclass system so you don't have to fight it.

Actually, given that I have spent many hours today thinking about your stuff I may as well offer you my proof of the single-primed version:
```
attribute [local instance] ModuleProd.instModuleProd in
lemma induced_continuous_add' : @ContinuousAdd N
    (TopologicalSpace.induced (AddMonoidHom.inr _ _) (moduleTopology (R × S) (M × N))) _ := by
  let : TopologicalSpace N :=
    (TopologicalSpace.induced (AddMonoidHom.inr _ _) (moduleTopology (R × S) (M × N)))
  let : TopologicalSpace (M × N) := moduleTopology (R × S) (M × N)
  convert induced_continuous_add (R := S) (S := R) (M := N) (N := M)
  convert TopologicalSpace.induced_comp (AddMonoidHom.inl N M) Prod.swap
    (moduleTopology (R × S) (M × N))
  let : TopologicalSpace (N × M) :=
    TopologicalSpace.induced Prod.swap (moduleTopology (R × S) (M × N))
  have : IsModuleTopology (R × S) (M × N) := ⟨rfl⟩
  let e : (M × N) ≃SL[(RingEquiv.prodComm.toRingHom : R × S →+* S × R)] (N × M) := {
    __ := LinearEquiv.prodSwap R S M N
    continuous_toFun := by
      convert continuous_coinduced_rng
      exact congr($(Equiv.induced_symm (Equiv.prodComm M N)) _)
    continuous_invFun := continuous_induced_dom
  }
  obtain ⟨h⟩ := ContinuousLinearEquiv.isModuleTopology _ _
    continuous_swap continuous_swap e.symm
  exact h.symm
```

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 25]
```diff
@@ -470,6 +472,288 @@ instance instProd' : IsModuleTopology (A × B) (M × N) := inferInstance
...
+      all_goals simp only [Function.comp_apply, ModuleProd.smul]
+      all_goals rfl
+    rw [this]
+    refine Continuous.comp ?_ (continuous_prodProdProdComm R S M N)
+    · apply Continuous.prodMap
+      all_goals exact ContinuousSMul.continuous_smul
+
+/-- If `M` has the `A`-module topology and `N` has the `B`-module topology
+  then `M × N` has the `(A × B)`-module topology. -/
+instance instProd'' : IsModuleTopology (R × S) (M × N) := by
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:731]: Is this the point of these hundreds of lines? Is this the only thing you need or do you also need all these intermediate results? Can you sketch a maths proof?

Comment (WilliamCoram) [reply FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:731]: This is the only thing I need (or needed, since I could just use the existing results with commring as opposed to ring). The whole file follows a proof you gave me August 1st over Zulip and I pretty much verbatim follow your proof outline. I believe I linked it in my previous message to you.

I agree all the @'s are horrible... but this was the only way I knew how to force the correct topologies (of which there are many) I wanted on every step. Because of this I was also unsure how to infer inr from inl, as although the method is 90% the same; the calling of each topology would be different and certain maps would swap order.

Comment (kbuzzard) [reply FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:731]: I think you should detail the natural language proof in the Lean proof, there is no point keeping it secret. Can you try and figure out whether you can use my double and triple primed version of the results instead of your versions? Can you move some of the code I suggest above into separate files in FLT/Mathlib?
